US05750531
Synthesis of 6-ethyl-2-(4-fluorophenylamino)-4-(1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine hydrochloride
After 4-fluoroaniline(0.50 ml, 5.28 mmol) was added to a mixture solution of 6-ethyl-4-(1,2,3,4-tetrahydroisoquinoline-2-yl)-2-chloropyrimidine(0.7 g, 2.56 mmol) and dimethylformamide(5 ml), 0.41 g of the titled compound was obtained in accordance with the same procedure as in Step 2 of Example 1.

reactant | 4-fluoroaniline | 5.28 mmol, 0.50 ml | FC1=CC=C(N)C=C1 | C6H6FN
reactant | 6-ethyl-4-(1,2,3,4-tetrahydroisoquinoline-2-yl)-2-chloropyrimidine | 2.56 mmol, 0.7 g | C(C)C1=CC(=NC(=N1)Cl)N1CC2=CC=CC=C2CC1 | C15H16ClN3
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 6-ethyl-2-(4-fluorophenylamino)-4-(1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine hydrochloride | 0.41 g, Yield: 42% | Cl.C(C)C1=CC(=NC(=N1)NC1=CC=C(C=C1)F)N1CC2=CC=CC=C2CC1 | InChI=1S/C21H21FN4.ClH/c1-2-18-13-20(26-12-11-15-5-3-4-6-16(15)14-26)25-21(23-18)24-19-9-7-17(22)8-10-19;/h3-10,13H,2,11-12,14H2,1H3,(H,23,24,25);1H
